US04894091
16.7 g of mercaptobenzothiazole, 3.0 g of paraformaldehyde, 15.4 g of 2,6-dimethoxyphenol and 1 g dibutylamine are heated at 110°, with rapid stirring, for 2 hours. 50 ml of ethanol are added and the mixture cooled to 10° thereby obtaining 27.3 g of 3-(3,5-dimethoxy-4-hydroxybenzyl)-benzothiazole-2-thione (compound No. 8) melting at 141°-142°.

reactant | mercaptobenzothiazole | 16.7 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | paraformaldehyde | 3.0 g | C=O | CH2O
reactant | 2,6-dimethoxyphenol | 15.4 g | COC1=C(C(=CC=C1)OC)O | C8H10O3
catalyst | dibutylamine | 1 g | C(CCC)NCCCC | C8H19N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(3,5-dimethoxy-4-hydroxybenzyl)-benzothiazole-2-thione | 27.3 g | COC=1C=C(CN2C(SC3=C2C=CC=C3)=S)C=C(C1O)OC | C16H15NO3S2
